US07598392B2
1.1. Preparation of tert-butyl 4-[4-(5-cyclohexyl-2-methoxyphenyl)thiazol-2-ylcarbamoyl]piperidine-1-carboxylate (compound II.27)
1.68 g of BOP, 0.75 g of Boc-isonipecotic acid and then 1.41 mL of DIPEA are added, at a temperature of 0° C., to a solution of 1 g of 4-(2-methoxy-5-cyclohexylphenyl)-1,3-thiazol-2-amine, obtained in preparation I.3, in 6 mL of acetonitrile. The medium is stirred at room temperature for 24 hours and then filtered. The solid thus obtained is rinsed with acetonitrile and then dried. 1.13 g of a white solid are thus obtained.

reactant | BOP | 1.68 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Boc-isonipecotic acid | 0.75 g | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | DIPEA | 1.41 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-methoxy-5-cyclohexylphenyl)-1,3-thiazol-2-amine | 1 g | COC1=C(C=C(C=C1)C1CCCCC1)C=1N=C(SC1)N | C16H20N2OS
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | tert-butyl 4-[4-(5-cyclohexyl-2-methoxyphenyl)thiazol-2-ylcarbamoyl]piperidine-1-carboxylate | 1.13 g | C1(CCCCC1)C=1C=CC(=C(C1)C=1N=C(SC1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C27H37N3O4S
